US08123982B2
Preparation of Sodium 4-(3-Aminopropyl)Morpholine Dithiocarbamate as an Aqueous Solution
When the reactor contents had reached 30° C., the carbon disulfide feed was started at a slow drop-wise rate. After five minutes the sodium hydroxide feed was also started at a slow drop-wise rate. The feeds were regulated such that the reaction temperature did not exceed 45° C., and both additions were complete after approximately forty-five minutes. The reaction was then allowed to cook for one hour at 40° C., after which the 4-(3-aminopropyl)morpholine dithiocarbamate solution was a clear orange solution. The pH was 12.0-14.0 and the activity was 28-30% by calculation.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(3-aminopropyl)morpholine dithiocarbamate | C(N)(S)=S.NCCCN1CCOCC1
solvent | carbon disulfide | C(=S)=S | CS2
product | Sodium 4-(3-Aminopropyl)Morpholine Dithiocarbamate | C(N)([S-])=S.NCCCN1CCOCC1.[Na+] | InChI=1S/C7H16N2O.CH3NS2.Na/c8-2-1-3-9-4-6-10-7-5-9;2-1(3)4;/h1-8H2;(H3,2,3,4);/q;;+1/p-1
